US08466193B2
1-(2-(4-(morpholinomethyl)phenoxy)ethyl)-1H-indole-6-carboxylate was activated and coupled with NH2OH as described in Example 4, Step 3 to provide 1-(2-(4-(morpholinomethyl)phenoxy)ethyl)-N-hydroxy-1H-indole-6-carboxamide as a tan solid.

reactant | 1-(2-(4-(morpholinomethyl)phenoxy)ethyl)-1H-indole-6-carboxylate | O1CCN(CC1)CC1=CC=C(OCCN2C=CC3=CC=C(C=C23)C(=O)[O-])C=C1
reactant | NH2OH | NO | H3NO
product | 1-(2-(4-(morpholinomethyl)phenoxy)ethyl)-N-hydroxy-1H-indole-6-carboxamide | O1CCN(CC1)CC1=CC=C(OCCN2C=CC3=CC=C(C=C23)C(=O)NO)C=C1 | C22H25N3O4
